US08067445B2
Step 2: [2′-({Ethyl-[2-(2-methyl-imidazol-1-yl)-acetyl]-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
To 2-methylimidazole (0.047 g, 0.57 mmol) in DMF (2 mL) at 0° C. was added sodium hydride (60% in mineral oil; 0.031 g, 0.78 mmol), and the reaction was stirred for 15 minutes. (2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.52 mmol) was added in DMF, and the reaction was stirred at room temperature for 1.5 hours. Analytical LCMS showed that a lot of starting material remained, so tetrabutylammonium iodide (0.005 g, 0.01 mmol) was added, and the reaction was stirred for 3 hours. Analytical LCMS showed that no change had occurred, so additional sodium hydride (60% in mineral oil; 0.031 g, 0.78 mmol) was added, and the reaction was stirred overnight at room temperature. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were washed three times with H2O, and then dried and concentrated to give the title compound.

reactant | 2-methylimidazole | 0.57 mmol, 0.047 g | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | 0.78 mmol, 0.031 g | [H-].[Na+]
reactant | (2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.52 mmol | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(CCl)=O)=O | C23H25ClF3NO4
reactant | sodium hydride | 0.78 mmol, 0.031 g | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.01 mmol, 0.005 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | [2′-({Ethyl-[2-(2-methyl-imidazol-1-yl)-acetyl]-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CN1C(=NC=C1)C)=O)CC)=O | C27H30F3N3O4
